US04686217
(a) Cyclobutyl 2-(2,3-dichlorophenylmethylene)-3-oxobutanoate
A solution of 2,3-dichlorobenzaldehyde (1.57 g, 8.9 mmoles), cyclobutyl 3-oxobutanoate (1.4 g, 8.9 mmoles), piperidine (8 drops) and hexanoic acid (11 drops) in dry benzene (100 ml) was heated at reflux for 12 hours using a Dean and Stark apparatus. The solution was allowed to cool to room temperature and the solvent removed in vacuo to leave the crude sub-title compound as an oil 3.5 g. Chromatography on silica eluting with petroleum ether (60°-80° )/ethyl acetate mixtures afforded the sub-title compound as an oil, 1.7 g.

reactant | 2,3-dichlorobenzaldehyde | 8.9 mmoles, 1.57 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | cyclobutyl 3-oxobutanoate | 8.9 mmoles, 1.4 g | O=C(CC(=O)OC1CCC1)C | C8H12O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | piperidine | 8 drops | N1CCCCC1 | C5H11N
catalyst | hexanoic acid | 11 drops | C(CCCCC)(=O)O | C6H12O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | Cyclobutyl 2-(2,3-dichlorophenylmethylene)-3-oxobutanoate | ClC1=C(C=CC=C1Cl)C=C(C(=O)OC1CCC1)C(C)=O | C15H14Cl2O3
